US05510379
The general procedure of Example I(A) was followed to react ethyl chlorosulfonylacetate with 2,6-diisopropylphenol to give ethyl (2,6-diisopropylphenoxysulfonyl)acetate. The ethyl acetate derivative was hydrolyzed to 2,6-diisopropylphenoxysulfonyl acetic acid. The acetic acid derivative was reacted with dodecylamine and DCC according to Example I(B) to provide 2,6-diisopropylphenyl N-dodecylcarbamoylmethylsulfonate, mp 75°-78° C.

reactant | ethyl chlorosulfonylacetate | ClS(=O)(=O)CC(=O)OCC | C4H7ClO4S
reactant | 2,6-diisopropylphenol | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
product | ethyl (2,6-diisopropylphenoxysulfonyl)acetate | C(C)(C)C1=C(OS(=O)(=O)CC(=O)OCC)C(=CC=C1)C(C)C | C16H24O5S
